US05843941
rac-7-Chloro-5-(2-chlorophenyl)-3-[[(1,1-dimethylethoxy)carbonyl]methylamino]-2,3-dihydro-2-oxo-1H-1-benzazepine-1-acetic acid ethyl ester (88)
A solution of rac-[7-chloro-5-(2-chlorophenyl)-2,3-dihydro-2-oxo-1H-1-benzazepin-3-yl]methylcarbamic acid 1,1-dimethylethyl ester (1.346 g, 3.11 mmole) in 17 mL of dimethylformamide was treated with cesium carbonate (1.85 g, 5.68 mmole) and ethyl bromoacetate (0.65 mL, 5.86 mmole). After stirring at ambient temperature for 3 hours, the mixture was diluted with ethyl acetate (150 ml). The organic phase was washed four times with water and once with brine, dried (sodium sulfate) and concentrated. The crude material was chromatographed by flash chromatography, eluting with 40:60 ethyl acetate-hexane, to give 1.506 g (93%) of the title compound. Mass spec. (EI, m/z 518).

reactant | rac-[7-chloro-5-(2-chlorophenyl)-2,3-dihydro-2-oxo-1H-1-benzazepin-3-yl]methylcarbamic acid 1,1-dimethylethyl ester | 3.11 mmole, 1.346 g | CC(C)(C)OC(NCC1C(NC2=C(C(=C1)C1=C(C=CC=C1)Cl)C=C(C=C2)Cl)=O)=O | C22H22Cl2N2O3
reactant | cesium carbonate | 5.68 mmole, 1.85 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl bromoacetate | 5.86 mmole, 0.65 mL | BrCC(=O)OCC | C4H7BrO2
reactant | dimethylformamide | 17 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | rac-7-Chloro-5-(2-chlorophenyl)-3-[[(1,1-dimethylethoxy)carbonyl]methylamino]-2,3-dihydro-2-oxo-1H-1-benzazepine-1-acetic acid ethyl ester | 1.506 g, 93% | C(C)OC(CN1C(C(C=C(C2=C1C=CC(=C2)Cl)C2=C(C=CC=C2)Cl)NCC(=O)OC(C)(C)C)=O)=O | C26H28Cl2N2O5
